US06894042B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-bromo-1-benzofuran-5-carboxamide (350 mg, 1.0 mmol) is combined with bis(benzonitrile)palladium dichloride (57 mg, 0.15 mmol), cuprous iodide (19 mg, 0.10 mmol), tri(t-butyl)phosphine (658 μL, 0.325 mmol), trimethylsilylacetylene (170 μL, 1.2 mmol), and DIA (168 μL, 1.2 mmol) in dioxane (3 ml) in a dry flask under nitrogen. The reaction is stirred overnight at RT, is diluted with EtOAc (25 ml), is washed with 1:1:0.1 NaCl/water/conc. NH4OH (4×25 ml), and the organic layer is dried (K2CO3). The volatiles are removed in vacuo and the residue is chromatographed over 30 g silica gel (230-400 mesh) eluting with 7% MeOH/CHCl3+1% conc. NH4OH. The appropriate fractions are combined and concentrated to afford 268 mg (73%) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-[(trimethylsilyl)ethynyl]-1-benzofuran-5-carboxamide as a pale foam. HRMS (ESI) calcd for C21H26N2O2SI+H: 367.1841, found 367.1852 (M+H)+.

reactant | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-bromo-1-benzofuran-5-carboxamide | 1.0 mmol, 350 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2C=CC1=C(C(=CO1)Br)C2 | C16H17BrN2O2
reactant | tri(t-butyl)phosphine | 0.325 mmol, 658 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | trimethylsilylacetylene | 1.2 mmol, 170 μL | C[Si](C)(C)C#C | C5H10Si
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
catalyst | bis(benzonitrile)palladium dichloride | 0.15 mmol, 57 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
product | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-[(trimethylsilyl)ethynyl]-1-benzofuran-5-carboxamide | 268 mg, 73% | N12C[C@@H](C(CC1)CC2)NC(=O)C=2C=CC1=C(C(=CO1)C#C[Si](C)(C)C)C2 | C21H26N2O2Si
